US07468375B2
To a solution of 1-(4-fluorobenzyl)-3-[(2-methoxyethoxy)methyl]-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid (200 mg 0.5581 mmol) in anhydrous DMF (10 mL) was added CDMT (118 mg 0.6695 mmol 1.2 eq.) and NMM (N-methyl morpholine) (0.074 mL 0.67 mmol 1.2 eq.). The mixture, under nitrogen, was stirred for 1.5 hours, during which it slowly darkened to a deep orange. N-Methylhydroxylamine hydrochloride (233 mg 2.79 mmol 5.0 eq) was added and stirring continued for 10 hours. The reaction was judged to be complete by HPLC-MS analysis and the volatiles were removed in vacuo (ca. 2 torr) to give a golden yellow oil. This oil was dissolved in EtOAc (30 mL) and washed with water (3×20 mL) and brine (20 mL). The organic phase was separated, dried (Na2SO4), and concentrated in vacuo to afford the crude product. Which was purified by chromatography on a column of silica gel (40 mm OD, 100 g, 230-400 mesh, packed with CH2Cl2, eluted with CH2Cl2—MeOH—NH3 97:2:1 v/v, 2.0 L, 25 mL fractions) using the flash technique. Fractions were combined to afford 0.080 g (37%) of 1-(4-fluorobenzyl)-N-hydroxy-3-[(2-methoxyethoxy)methyl]-N-methyl-1H-pyrrolo[2,3-c]pyridine-5-carboxamide. LC-MS (Eclipse XDB-C8, 0.8 mL/min, gradient 80:20 to 5:95H2O (+0.1% HOAc):CH3CN—5 minutes, ESI, +mode): RT -2.062 min, m/e=388.1 (M+H+, base). 1H-NMR (300 MHz, CDCl3): o=3.38 (s, 3H), 3.47 (s, 3H), 3.57 (m, 2H), 3.68 (m, 2H), 4.78 (s, 2H), 5.37 (s, 2H), 7.04 (m, 2H), 7.13 (m, 2H), 7.42 (s, 1H), 8.46 (s, 1H), 8.64 (s, 1H). Found: C, 61.79; H, 5.83; N, 10.7%. C20H22FN3O4; 0.08H2O, requires C, 61.78; H, 5.74; N, 10.81%.

reactant | 1-(4-fluorobenzyl)-3-[(2-methoxyethoxy)methyl]-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | 0.5581 mmol, 200 mg | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)O)COCCOC)C=C1 | C19H19FN2O4
reactant | NMM | 0.67 mmol, 0.074 mL, 1.2 eq. | CN1CCOCC1 | C5H11NO
reactant | N-Methylhydroxylamine hydrochloride | 2.79 mmol, 233 mg, 5.0 eq | Cl.CNO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 1-(4-fluorobenzyl)-N-hydroxy-3-[(2-methoxyethoxy)methyl]-N-methyl-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | 0.080 g, 37% | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)N(C)O)COCCOC)C=C1 | C20H22FN3O4
